US07592453B2
tert-Butyl 4-phenyl-2,3-dihydro-1H-pyrrolo[3,2-c]quinoline-1-carboxylate
A mixture of tert-butyl (3aR*,4S*,9bR*)-4-phenyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline-1-carboxylate (20.5 g, 58.6 mmol), manganese dioxide (50.9 g, 586 mmol) and toluene (400 ml) was stirred at 120° C. for 4 hrs. The reaction mixture was cooled to room temperature, insoluble materials were filtered off through celite, and the residue was washed with ethyl acetate. The filtrate and washings were combined and concentrated under reduced pressure. The obtained residue was subjected to column chromatography using basic silica gel, and eluted with hexane-ethyl acetate (10:1-8:1, v/v). The concentrated object fraction was recrystallized from hexane-ethyl acetate to give the title compound (11.7 g, 58%) as colorless needle crystals.

reactant | tert-butyl (3aR*,4S*,9bR*)-4-phenyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline-1-carboxylate | 58.6 mmol, 20.5 g | C1(=CC=CC=C1)[C@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2C(=O)OC(C)(C)C | C22H26N2O2
catalyst | manganese dioxide | 586 mmol, 50.9 g | [O-2].[O-2].[Mn+4]
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 4-phenyl-2,3-dihydro-1H-pyrrolo[3,2-c]quinoline-1-carboxylate | 11.7 g, 58% | C1(=CC=CC=C1)C1=NC=2C=CC=CC2C2=C1CCN2C(=O)OC(C)(C)C | C22H22N2O2
